US06248765B1
4-(3-(1H-Imidazol-4-yl)propyloxy)phenyl 4-fluorophenyl ketone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 5 mmol of 4-fluoro-4′-hydroxybenzophenone are treated as described in Example 76.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 4-fluoro-4′-hydroxybenzophenone | 5 mmol | FC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H9FO2
product | 4-(3-(1H-Imidazol-4-yl)propyloxy)phenyl 4-fluorophenyl ketone | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCCCC=1N=CNC1 | C19H17FN2O2
